US05478820
3,5-Dimethylnitrobenzene (30 g, 0.198 M) was heated with stirring to 80° in a mixture of pyridine (400 ml) and water (250 ml). KMnO4 (62.7 g, 0.396 M) was added in portions over 0.75 hours, and heating continued at 85°-90° for 1.75 hours. The hot solution was filtered through celite, washing with hot water (150 ml). The pink filtrates were decolourised with a few drops of sodium metabisulfite, and evaporated to dryness. The residue was dissolved in water (250 ml), and extracted with diethyl ether (2×90 ml). The aqueous layer was acidified (concentrated hydrochloric acid), and extracted with ethyl acetate (3×120 ml). Combined organic extracts were washed with NaH2PO4 solution, brine, and dried over MgSO4. Crude product was eluted through a pad of silica, using a mixture of ethyl acetate/dichloromethane/acetic acid (25:25:1), to give 3-methyl-5-nitrobenzoic acid (14.5 g, 40%), mp 171°-172°. Nmr (DMSO-d6): δ2.51 (s, 3H); 8.17 (s, 1H); 8.30 (t, 1H); 8.42 (t, 1H); 13.58 (br, 1H).

reactant | 3,5-Dimethylnitrobenzene | 0.198 M, 30 g | CC=1C=C(C=C(C1)C)[N+](=O)[O-] | C8H9NO2
reactant | KMnO4 | 0.396 M, 62.7 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 250 ml | O | H2O
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
product | 3-methyl-5-nitrobenzoic acid | 14.5 g, 40% | CC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C8H7NO4
